* sg13g2-bandgap -- bandgap_startup PEX (post-layout) PVT testbench
* (issue #14). Generated from
* sim/startup-trip-point-pex/testbench/tb_startup_trip_point_pex.spice.tmpl
* by sim/startup-trip-point-pex/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full rationale is in sim/startup-trip-point-pex/README.md.
*
* Generated for: corner=sf temp=125C vdd=2.97V
* DUT git sha (design/netlist/bandgap_startup.spice, for the spliced-in
* resistor device -- see below):
*   66ac99d
* Layout git sha (layout/bandgap_startup/bandgap_startup.gds, extraction
* input):
*   364d7dc
* PDK: ihp-sg13g2 /tmp/ihp-pdk-fetch/extract (see sim/pdk.json for the pinned release)
* OSDI models: /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* THIS IS A HYBRID PEX NETLIST, NOT A PURE LAYOUT EXTRACTION -- read
* sim/startup-trip-point-pex/README.md "What this does and does not
* model" before trusting a result here. Short version:
*   - XMSENSE/XMKFB (both sg13_hv_nmos) are re-encoded from `klt extract
*     --deck sg13g2 --parasitics layout/bandgap_startup/
*     bandgap_startup.gds` (layout/bandgap_startup/bandgap_startup.pex.spice,
*     pex_extract_report.json): real drawn W/L and junction AS/AD/PS/PD
*     from the routed layout, re-expressed as X-subckt calls to the real
*     sg13_hv_nmos compact model. Their D/G/S node roles match the
*     schematic's own convention exactly (no swap, unlike
*     core-open-loop-bias-pex) -- only the body terminal differs (see
*     below).
*   - **XMSENSE's extracted width is w=2u, NOT w=10u.** The committed
*     layout (layout/bandgap_startup/generate.py, issue #11/PR #19) was
*     drawn before decision record 0003 (issue #24/PR #29) widened
*     XMSENSE from w=2u to w=10u in design/netlist/bandgap_startup.spice
*     to fix a real 125C startup-release margin bug -- the layout was
*     never regenerated to match. This testbench is deliberately
*     as-drawn (w=2u): PEX evidence should show what the committed GDS
*     actually is, not what the current schematic says. See
*     sim/startup-trip-point-pex/README.md and the filed follow-up issue
*     for the full account.
*   - This direct sns1-sweep methodology (0 -> vdd) does NOT, by itself,
*     reproduce decision record 0003's margin bug at w=2u -- it always
*     reaches full release by the time sns1 hits vdd, same limitation
*     sim/startup-trip-point's own (pre-PEX) records already note. The
*     margin bug only shows up by comparing this record's `vtrip_v`
*     against sim/core-open-loop-bias-pex's own real `sns1` operating
*     point at the same corner -- see sim/startup-trip-point-pex/README.md
*     "Cross-bench observation" for that comparison, which reproduces
*     decision record 0003's exact same 4 flagged points
*     (wcs_125c_{2.97,3.30,3.63}v, sf_125c_3.63v) at this as-drawn width.
*   - XRPU (rhigh) is NOT extracted from the layout at all -- same
*     bipolar/resistor recognition gap as core-open-loop-bias-pex. Spliced
*     in verbatim from design/netlist/bandgap_startup.spice, wired to the
*     same real layout net names (vdd/det) the extraction itself reports
*     as real, physically-routed pins.
*   - Both extracted devices' body terminals land on the deck's own
*     synthesized global fallback net (`vsubs` in
*     layout/bandgap_startup/bandgap_startup.pex.spice), not the
*     schematic's real body-tied-to-vss (klayout-tools, filed generically;
*     see layout/README.md's LVS cause 2). This testbench ties body to
*     vss directly, mirroring the schematic's real intent, rather than
*     wiring to a deck-synthesized net this testbench has no independent
*     way to validate.
*   - Same zero-wire-parasitics caveat as core-open-loop-bias-pex: the
*     sg13g2 deck's PARASITICS.metals/metal_overlaps tables are empty for
*     Metal1/Metal2, so `--parasitics` reports zero wire R/C here too.

.lib "/tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_sf
.lib "/tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_typ

.options temp=125 tnom=27

Vvdd vdd 0 dc 2.97
Vvss vss 0 dc 0
* bandgap_startup.spice wires the rhigh bulk terminal to the global
* substrate net `sub!`; tied to vss through a 0 V source here, as in
* sim/startup-trip-point.
Vsub sub! vss dc 0

* FIXTURE 1 -- sns1 stimulus, same convention as sim/startup-trip-point:
* sns1 is bandgap_core's own sense node in the assembled block; here it is
* driven directly so the startup circuit's response can be swept from
* "core is dead" (sns1 = 0) to "core is up" (sns1 = vdd) in one analysis.
Vsns1 sns1 vss dc 0

* FIXTURE 2 -- fb load, same convention as sim/startup-trip-point: nothing
* drives fb high in the design yet (no error amplifier -- issue #9's scope
* cut), so this weak pull-up stands in for whatever eventually holds fb
* high once XMKFB turns off.
Rfbpu vdd fb 10meg

* Resistor -- schematic-sourced, see file header above.
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0

* Extracted NMOS switches -- see file header above for the w=2u-vs-w=10u
* caveat and the body-net substitution.
XMSENSE det sns1 vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 as=0.8p ad=0.8p ps=4.8u pd=4.8u
XMKFB fb det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 as=0.8p ad=0.8p ps=4.8u pd=4.8u

.control
pre_osdi /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /tmp/ihp-pdk-fetch/extract/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
* 1) cold-start state: core dead (sns1 = 0), startup must be engaged.
op
print v(det) v(fb)
* 2) disengage behaviour: sweep the core's sense node up and find where the
*    detect node releases, plus the fully-running-core end state.
dc Vsns1 0 2.97 0.005
meas dc vtrip when v(det)=1.4850 cross=1
meas dc det_off find v(det) at=2.9200
meas dc fb_off find v(fb) at=2.9200
.endc
.end
